US04857643
Chloroacetylchloride (2.5 ml) is added to a stirred solution of 2-[(o-hydroxyphenoxy)methyl]thiazolidine (6 g) in 1,2-dichloroethane (80 ml) and triethilamine (4.3 ml) cooled at -30° C. After the usual work-up 3-αchloroacetyl-2-[(o-hydroxyphenoxy)methyl]thiazolidine (5.7 g, from Et2O, m.p. 89°-91° C.) is obtained. A stirred solution of the latter compound in 1,2-dichloroethane (50 ml) is heated with solid potassium thioacetate (4 g). After 2 hours, the mixture is washed with water to give, after the usual work-up, 3-acetylthio-acetyl-2-[(o-hydroxyphenoxy)methyl]thiazolidine (6.4 g, from EtOH) m.p. 97°-99° C.

reactant | Chloroacetylchloride | 2.5 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-[(o-hydroxyphenoxy)methyl]thiazolidine | 6 g | OC1=C(OCC2SCCN2)C=CC=C1 | C10H13NO2S
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
product | 3-αchloroacetyl-2-[(o-hydroxyphenoxy)methyl]thiazolidine | 5.7 g | ClCC(=O)N1C(SCC1)COC1=C(C=CC=C1)O | C12H14ClNO3S
